US05962458
A solution of 4-chloro-7-nitroquinazoline hydrochloride (2.46 g, 10 mmol) and 2-fluoro-5-methoxycarbonyloxy-4-methylaniline (2.2 g, 11 mmol), prepared as described for the starting material in Example 12), in isopropanol (25 ml) was heated at 50° C. for 1 hour. The mixture was allowed to cool, the precipitated solid was collected by filtration recrystallised from methylene chloride/methanol/isopropanol to give 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-nitroquinazoline hydrochloride (1.8 g, 45%) as a yellow solid.

reactant | 4-chloro-7-nitroquinazoline hydrochloride | 10 mmol, 2.46 g | Cl.ClC1=NC=NC2=CC(=CC=C12)[N+](=O)[O-]
reactant | 2-fluoro-5-methoxycarbonyloxy-4-methylaniline | 11 mmol, 2.2 g | FC1=C(N)C=C(C(=C1)C)OC(=O)OC | C9H10FNO3
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-nitroquinazoline hydrochloride | 1.8 g, 45% | Cl.FC1=C(NC2=NC=NC3=CC(=CC=C23)[N+](=O)[O-])C=C(C(=C1)C)OC(=O)OC | InChI=1S/C17H13FN4O5.ClH/c1-9-5-12(18)14(7-15(9)27-17(23)26-2)21-16-11-4-3-10(22(24)25)6-13(11)19-8-20-16;/h3-8H,1-2H3,(H,19,20,21);1H
